US04153716
A mixture of 1.04 g. (0.009 mole) of proline and 3 g. (0.009 mole) of 5-(2-bromoethyl)-2-nitro-3-phenylbenzofuran (prepared by reaction of 5-(2-hydroxyethyl)-2-nitro-3-phenylbenzofuran with phosphorus tribromide) in 50 ml. of ethanol is heated to its reflux temperature and maintained at reflux temperature for about 14 hours. The mixture is evaporated to provide a solid residue which is recrystallized from ethanol to provide 5-ethoxyethyl-2-nitro-3-phenylbenzofuran, m.p. 108°-109° C.

reactant | proline | 0.009 mole | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 5-(2-bromoethyl)-2-nitro-3-phenylbenzofuran | 0.009 mole | BrCCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H12BrNO3
solvent | ethanol | C(C)O | C2H6O
product | 5-ethoxyethyl-2-nitro-3-phenylbenzofuran | C(C)OCCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C18H17NO4
